US07504382B2
4-Amino-6-Fluoro-5-Hydroxy-Hexanoic Acid Dimethylamide
To a solution of 6-fluoro-5-hydroxy-4-nitro-hexanoic acid dimethylamide (1.22 g, 5.5 mmol) in MeOH (20 mL) was added Ranny Ni (about 500 mg), and the mixture was hydrogenated under 40-45 psi H2 at room temperature for 6 h. The catalyst was removed. The MeOH solution was evaporated and the residue oil (0.92 g, yield 87%) was used without further purification. MS m/e 193 (M+1).

reactant | 6-fluoro-5-hydroxy-4-nitro-hexanoic acid dimethylamide | 5.5 mmol, 1.22 g | CN(C(CCC(C(CF)O)[N+](=O)[O-])=O)C | C8H15FN2O4
solvent | MeOH | 20 mL | CO | CH4O
catalyst | Ni | about 500 mg | [Ni] | Ni
product | 4-Amino-6-Fluoro-5-Hydroxy-Hexanoic Acid Dimethylamide | 0.92 g, yield 87% | CN(C(CCC(C(CF)O)N)=O)C | C8H17FN2O2
